US05624601
Preparation of (3,4-difluorophenyl) trans-4-(4-(4-fluoropentyl)-4-silacyclohexyl)benzoate
The general procedure of Example 3 was repeated using 3,4-difluorophenol and 4-(4-phenyl-4-(4-fluoropentyl)-4-silacyclohexyl)benzoic acid, thereby obtaining the intended product.

reactant | 3,4-difluorophenol | FC=1C=C(C=CC1F)O | C6H4F2O
reactant | 4-(4-phenyl-4-(4-fluoropentyl)-4-silacyclohexyl)benzoic acid | C1(=CC=CC=C1)[Si]1(CCC(CC1)C1=CC=C(C(=O)O)C=C1)CCCC(C)F | C23H29FO2Si
product | (3,4-difluorophenyl) trans-4-(4-(4-fluoropentyl)-4-silacyclohexyl)benzoate | FC(CCC[Si@@H]1CC[C@H](CC1)C1=CC=C(C(=O)OC2=CC(=C(C=C2)F)F)C=C1)C | C23H27F3O2Si
